US07517532B2
Step 1: Ethyl (2-methylaziridin-1-yl)acetate
To a cold (−78° C.) solution of 2-methylaziridine (5.6 g, 99 mmol) and N,N-diisopropylethylamine (18.8 mL, 108 mmol) in dichloromethane (250 mL) under an atmosphere of nitrogen, ethyl bromoacetate (10 mL, 90 mmol) was added over a period of 1 h. The resultant mixture was allowed to slowly warm up and stirred at room temperature overnight. The resultant mixture was concentrated under vacuum, and the residue was suspended in chloroform. A stream of anhydrous ammonia gas was bubbled into the mixture with stirring for a period of 15 min. The resultant suspension was filtered, and the filtrate concentrated under vacuum. The residue was further treated with anhydrous diethyl ether and the milky solution filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue subjected to distillation under reduced pressure (bp ˜60° C., 18 torr) to provide the title compound as colorless oil.

reactant | 2-methylaziridine | 99 mmol, 5.6 g | CC1NC1 | C3H7N
reactant | N,N-diisopropylethylamine | 108 mmol, 18.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl bromoacetate | 90 mmol, 10 mL | BrCC(=O)OCC | C4H7BrO2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | Ethyl (2-methylaziridin-1-yl)acetate | CC1N(C1)CC(=O)OCC | C7H13NO2
